### PR TITLE
Homogenize set

### PR DESCRIPTION
**Pull request by martinwintermath**

### CODE REVIEW

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 1]
```diff
@@ -0,0 +1,391 @@
...
+
+/-- Homogenization from sets to `SubMulActionWithZero` as a lattice homomorphism. -/
+def homogenizeLatticeHom : LatticeHom (Set A) (SubMulActionWithZero R≥0 W) where
+  toFun := homogenize R W
+  map_sup' := homogenize_union
+  map_inf' := homogenize_inter
+
+-- variable (R W) in
+lemma homogenize_sInf {S : Set (Set A)} (hS : S.Nonempty) :
+    homogenize R W (sInf S) = sInf (homogenize R W '' S) := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean:317]:
```suggestion

lemma homogenize_sInf {S : Set (Set A)} (hS : S.Nonempty) :
    homogenize R W (sInf S) = sInf (homogenize R W '' S) := by
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 2]
```diff
@@ -0,0 +1,391 @@
...
+-- scoped notation:70 R:70 " ∙[" W "] " s:70 => homogenize R W s
+
+lemma mem_homogenize {s : Set A} {x : W} :
+    x ∈ homogenize R W s ↔ x = 0 ∨ ∃ y ∈ s, ∃ r : R, 0 ≤ r ∧ x = r • hom.ofPoint y := by
+  simp [homogenize, mem_smulSet]
+
+-- TODO: make this more systematic by introducing an analogous lemma for `smulSet` and use it
+-- TODO: write analogous lemmas for the `mem_homogenize` versions below
+lemma mem_homogenize' {s : Set A} {x : W} (hx : x ∈ homogenize R W s) :
+    x = 0 ∨ ∃ y ∈ s, ∃ r : R, 0 < r ∧ x = r • hom.ofPoint y := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]:
```suggestion
lemma eq_smul_ofPoint_of_mem_homogenize {s : Set A} {x : W} (hx : x ∈ homogenize R W s) :
    x = 0 ∨ ∃ y ∈ s, ∃ r : R, 0 < r ∧ x = r • hom.ofPoint y := by
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 3]
```diff
@@ -0,0 +1,391 @@
...
+  rcases hx with (rfl | ⟨_, ⟨y, hy, rfl⟩, ⟨r, hr⟩, rfl⟩)
+  · exact .inl rfl
+  · by_cases hr0 : 0 = r
+    · simp [← hr0]
+    exact .inr ⟨y, hy, r, lt_of_le_of_ne hr hr0, rfl⟩
+
+lemma mem_homogenize_of_ne_zero {s : Set A} {x : W} (hx : x ≠ 0) :
+    x ∈ homogenize R W s ↔ ∃ y ∈ s, ∃ r : R, 0 ≤ r ∧ x = r • hom.ofPoint y := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]:
```suggestion
lemma mem_homogenize_iff_of_ne_zero {s : Set A} {x : W} (hx : x ≠ 0) :
    x ∈ homogenize R W s ↔ ∃ y ∈ s, ∃ r : R, 0 ≤ r ∧ x = r • hom.ofPoint y := by
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 4]
```diff
@@ -0,0 +1,391 @@
...
+  simp [homogenize, mem_smulSet_of_ne_zero hx]
+
+lemma mem_homogenize_of_nonempty {s : Set A} {x : W} (hs : s.Nonempty) :
+    x ∈ homogenize R W s ↔ ∃ y ∈ s, ∃ r : R, 0 ≤ r ∧ x = r • hom.ofPoint y := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]:
```suggestion
lemma mem_homogenize_iff_of_nonempty {s : Set A} {x : W} (hs : s.Nonempty) :
    x ∈ homogenize R W s ↔ ∃ y ∈ s, ∃ r : R, 0 ≤ r ∧ x = r • hom.ofPoint y := by
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 5]
```diff
@@ -0,0 +1,391 @@
...
+  specialize h hx0
+  constructor
+  · simp [inv_mul_cancel₀ h.ne.symm]
+  · use ⟨_, h.le⟩
+    simp [smul_smul, mul_inv_cancel₀ h.ne.symm]
+
+-- TODO: delete in favor of `nonneg_smulSet_preimage_one_eq_positive`?
+@[deprecated nonneg_smulSet_preimage_one_eq_positive (since := "")]
+lemma nonneg_smulSet_ofPoint_range :
+    R≥0 ∙ (hom.ofPoint.range : Set W) = hom.weight.positive := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: lets not introduce already-deprecated code into the main branch.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 6]
```diff
@@ -0,0 +1,391 @@
...
+    exact (smul_ofPoint_mem_homogenize_iff hr t).mp hx.2
+
+/-- Homogenization from sets to `SubMulActionWithZero` as a lattice homomorphism. -/
+def homogenizeLatticeHom : LatticeHom (Set A) (SubMulActionWithZero R≥0 W) where
+  toFun := homogenize R W
+  map_sup' := homogenize_union
+  map_inf' := homogenize_inter
+
+-- variable (R W) in
+lemma homogenize_sInf {S : Set (Set A)} (hS : S.Nonempty) :
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]:
```suggestion
lemma homogenize_sInf {S : Set (Set A)} (hS : S.Nonempty) :
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 7]
```diff
@@ -0,0 +1,391 @@
...
+  rw [Set.mem_preimage, Set.mem_singleton_iff] at hy
+  rw [Nonneg.mk_smul, map_smul, hy, smul_eq_mul, mul_one]
+  by_cases hr0 : 0 = r
+  · simp [← hr0] at hx0
+  exact lt_of_le_of_ne hr hr0
+
+-- TODO: delete in favor of `nonneg_smulSet_preimage_one_le_positive`
+@[deprecated nonneg_smulSet_preimage_one_le_positive (since := "")]
+lemma nonneg_smulSet_ofPoint_range_le_weight_positive :
+    R≥0 ∙ (hom.ofPoint.range : Set W) ≤ hom.weight.positive := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: lets not add already-deprecated code to the main branch.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 8]
```diff
@@ -0,0 +1,391 @@
...
+variable [hom : IsHomogenization R A W]
+
+@[simp] lemma dehomogenize_weight_positive :
+    dehomogenize A (hom.weight.positive : SubMulActionWithZero R≥0 W) = Set.univ := by
+  ext x; simp [dehomogenize, weight_one]
+
+-- TODO: move
+-- TODO: have a version for `c ≥ 0` instead of 1 when `R` is a division ring?
+lemma nonneg_smulSet_preimage_one_le_positive (f : W →ₗ[R] R) :
+    R≥0 ∙ f ⁻¹' {1} ≤ f.positive := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: please do :)

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 9]
```diff
@@ -0,0 +1,391 @@
...
+  intro x hx
+  simp only [SetLike.mem_sInf, Set.mem_image, forall_exists_index, and_imp,
+    forall_apply_eq_imp_iff₂] at hx
+  obtain (rfl | ⟨y, hys, r, hr, rfl⟩) := mem_homogenize' (hx _ hS.choose_spec)
+  · exact SubMulActionWithZero.zero_mem _
+  exact smul_ofPoint_mem_homogenize hr.le fun t ht =>
+    (smul_ofPoint_mem_homogenize_iff hr t).mp (hx _ ht)
+
+lemma homogenize_inter' (s t : Set A) :
+    homogenize R W (s ∩ t) = homogenize R W s ⊓ homogenize R W t := by
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: isnt this `homogenize_inter` above?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 10]
```diff
@@ -0,0 +1,391 @@
...
+    dehomogenize A (homogenize R W s) = s := by
+  ext x; simp [dehomogenize]
+
+end Nontrivial
+
+lemma homogenize_gc : GaloisConnection (homogenize R W) (dehomogenize A) := by
+  -- TODO: we could use GaloisConnection.compose:
+  --  * homogenize = closure ∘ image
+  --  * dehomogenize = preimage ∘ coe
+  sorry
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]:
```suggestion
```

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 11]
```diff
@@ -0,0 +1,391 @@
...
+lemma homogenize_singleton_eq {x y : A} :
+    homogenize R W {x} = homogenize R W {y} ↔ x = y := by simp
+
+end Nontrivial
+
+variable (A) in
+def _root_.SubMulActionWithZero.dehomogenize (S : SubMulActionWithZero R≥0 W) : Set A :=
+  hom.ofPoint ⁻¹' S
+
+omit [IsOrderedRing R] in
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: maybe these and the ones below can get their own section?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 12]
```diff
@@ -0,0 +1,391 @@
...
+section DivisionRing
+
+variable [DivisionRing R] [PartialOrder R] [IsOrderedRing R]
+variable [AddCommGroup V] [Module R V]
+variable [AddTorsor V A]
+variable [AddCommGroup W] [Module R W]
+
+variable [hom : IsHomogenization R A W]
+
+-- TODO: move
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: please do :)

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean [hunk 13]
```diff
@@ -0,0 +1,391 @@
...
+/-- Homogenization from sets to `SubMulActionWithZero` as an order homomorphism. -/
+def homogenizeOrderHom : Set A →o SubMulActionWithZero R≥0 W where
+  toFun := homogenize R W
+  monotone' := homogenize_monotone
+
+lemma homogenize_union (s t : Set A) :
+    homogenize R W (s ∪ t) = homogenize R W s ⊔ homogenize R W t := by
+  simp only [homogenize, Set.image_union, smulSet_union]
+
+-- TODO: optimize proof
```
Comment (ooovi) [inline Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]:
```suggestion
```

**Review by ooovi — COMMENTED** [review]
thanks :)
there's a bunch of sorries in the code. should we maybe put them into an issue or remove them or prove them before merging?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean (hunk 10 above)
Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: What changed here?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean (hunk 13 above)
Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: What changed here?

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean (hunk 10 above)
Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: especially given that the proof seems nontrivial, i suggest implementing this when its needed, or making an issue for the TODO.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean (hunk 13 above)
Comment (ooovi) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: the comment is not very informative.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean (hunk 10 above)
Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: This is a remark for future mathlib implementation. We need to be able to do things like this. The comment hints at how to prove this so do I don't need to look this up again. Research went into this. An option is to mark this as deprecated with comment "unproven" to warn potential users.

Also the proof seems not very hard.  And we agreed sorry's are ok.

File: Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean (hunk 13 above)
Comment (martinwintermath) [reply Polyhedral/Mathlib/LinearAlgebra/AffineSpace/Homogenization/Set.lean]: This is a hint that the proof can be optimized. What would you write instead?
